Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___.
 
Chief Complaint:
epigastric abdominal pain
 
Major Surgical or Invasive Procedure:
Barium swallow

 
History of Present Illness:
___ is a ___ year old woman with metastatic 
neuroendocrine tumor of the rectum who is admitted from the ED 
with one day of progressive epigastric abdominal pain found to
have new leukocytosis.

Patient developed recurrent epigastric pain and emesis starting
last ___ before her chemotherapy appointment. The pain was
severe, but very similar to prior. She received her chemotherapy
and over the next few days the pain improved. However, yesterday
at 5am the pain again returned severely. Up to ___ cramping
epigastric pain with associated nausea and non-bloody emesis. 
The
pain is immediately worse with any food and improved with pain
meds.

She was seen in ___ clinic day of admission and reported these
symptoms; she was transferred to the ED. Of note, patient was
admitted ___ for similar symptoms without etiology
found. Thought due to either gastritis or constipation and her
PPI was incraed to BID dosing and added magic mouthwash. She 
also
had an episode of epigastric pain during ___ infusion on ___.

In the ED, initial VS were pain 10, T 99.5, HR 103, BP 127/76, 
RR
24, O2 100%RA. T got up to 100.6. Initial labs notable for Na
137, K 5.0, HCO3 20, Cr 1.0, Ca 9.3, Mg 2.4, ALT 47, AST 59, ALP
120, TBili 0.6, Alb 4.4, WBC 30.0 (88%N), HCT 36.5, PLT 206, INR
1.2, lactate 2.7-->1.6, UA negative.  CT a/p showed no new acute
process. Patient was given IVF, IV morphine, Zofran, vanocmoycin
and zosyn. VS prior to transfer were pain 5, T 97.5, HR 90, BP
98/64, RR 18, O2 97%RA.

On arrival to the floor, patient reports ___ epistastric pain 
as
above. Nausea improved. Last BM was yesterday and was normal. No
fevers or chills (aside from T of 100.6 in ED). She has chronic
headaches. No vision changes. Has a globus sensation and dry
mouth, but no dysphagia. Denies chest pain or palpitations. No
SOB or cough. No dysuria. No diarrhea. No new leg pain or
swelling. She has chronic left hip pain. She took Neulasta
following FOLFIRINOX on ___. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
The patient is a ___ woman with previously treated 
High-grade neuroendocrine tumor of the rectum in ___ 
treated in ___.

___ a mass that was found in her rectum/anus.  She states 

she initially presented with a hemorrhoid and constipation and 
the mass was found on exam.  She was diagnosed ___ and 
treated with carboplatin/etoposide through ___ with complete 
resolution. Patient had local recurrence in ___ and was 
treated with topotecan for 3 cycles followed by radiation 
therapy from ___. She received an additional cycle of 

topotecan on ___. PET/CT on ___ showed new liver mets and 
presacral soft tissue mass. She was then started on CAV for 2 
cycles (___).  She states that she did not have 

any follow-up imaging after that point.

She left ___ and did not have follow up with any oncologic 
providers since. Her port remained in place.

In ___ she presented to ___. She 
underwent CT scan there where she was found to have multiple 
liver lesions. She underwent biopsy which per discharge 
summaries at ___ states the findings were consistent with "small 

cell carcinoma" 

She was experiencing new lower abdominal, back and sacral pain 
with radiculopathy down the left leg and presented to ___ 
___ for the symptoms and an MRI was obtained which showed a 

5.1 x 3.4 x 3.4 cm left presacral mass at S1 and an S2.  She was 

prescribed oxycodone and hydromorphone q 4 hours and then sent 
to twice daily MC for evaluation.

She was admitted from ___ - ___ with new PE and 
liver metastasis which were biopsy confirmed as high-grade 
neuroendocrine carcinoma.

She was treated with carboplatin and etoposide on ___ with a 
dose of Neupogen on ___. Due to chronic HIV/HPV she was 
started on Dolutegravr, Truvada, Entecavir per ID. Radiation 
oncology evaluated her and due to her prior radiation could not 
safely implement sacral radiation.

-___ C2D1 Carboplatin 4AUC and Etoposide 80  mg/m2
-___: Stopped Carboplatin and Etoposide due to tumor 
progression. 
-___: Started on FOLFIRI chemotherapy, C1D1.
-___: Missed C1D15 of FOLFIRI due to cough and URI.
-___: C2D1 FOLFIRI with neulasta support

 
PAST MEDICAL HISTORY: 
- Neuroendocrine carcinoma of rectum
- PE diagnosed in ___, on Lovenox
- GERD
- HIV ___ years
- HBV
- s/p C-section
- s/p hernia repair
 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5 
siblings. Father died in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VS: T 98.2 HR 84 BP 20 RR 20 SAT  100% O2 on RA
GENERAL: Very pleasant woman, NAD
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, 
tender
in epigastrum without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM:
======================
VS: 98.3 PO |91 / 55| 82 |18 |98% RA 
GENERAL: Resting comfortably in bed. 
EYES: Anicteric sclerea, PERLL, EOMI
ENT: Oropharynx clear without erythema or exudate, JVD not
elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normoactive bowel sounds; nondistended; soft,
minimal tenderness to palpation in epigastrum without rebound or
guarding; no hepatomegaly, no splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; muscle bulk and tone appropriate for age and
habitus.
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: Skin type V. No significant eruptions or lesions. 
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses
 
Pertinent Results:
ADMISSION LABS:
=============
___ 11:00AM   WBC-30.0*# RBC-3.54* HGB-11.7 HCT-36.5 
MCV-103* MCH-33.1* MCHC-32.1 RDW-18.4* RDWSD-69.9*
___ 11:00AM   NEUTS-88* BANDS-4 LYMPHS-2* MONOS-2* EOS-1 
BASOS-1 ___ METAS-2* MYELOS-0 AbsNeut-27.60* AbsLymp-0.60* 
AbsMono-0.60 AbsEos-0.30 AbsBaso-0.30*
___ 11:00AM   HYPOCHROM-NORMAL ANISOCYT-1+* POIKILOCY-1+* 
MACROCYT-1+* MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-1+* 
SCHISTOCY-OCCASIONAL
___ 11:00AM   ___ PTT-29.3 ___
___ 11:00AM   GLUCOSE-78 UREA N-9 CREAT-1.0 SODIUM-137 
POTASSIUM-5.0 CHLORIDE-100 TOTAL CO2-20* ANION GAP-17
___ 11:00AM   ALT(SGPT)-47* AST(SGOT)-59* ALK PHOS-120* TOT 
BILI-0.6
___ 11:00AM   ALBUMIN-4.4 CALCIUM-9.3 MAGNESIUM-2.4

IMAGING:
=======
CXR (___)
There is a right chest Port-A-Cath with distal tip projecting 
over the low
SVC, as on prior exams.  EKG leads overlie the chest.  The 
cardiomediastinal
silhouette is within normal limits.  The hila are unremarkable.  
The lungs are
clear without focal consolidation.  There is no pulmonary 
vascular congestion
or pulmonary edema.  There is no pneumothorax or sizable pleural 
effusion.

CT ABD/PELV (___)
1. No new acute process identified in the abdomen or pelvis.  
Overall, no significant change since the study of ___.
2. Unchanged multifocal hypoenhancing hepatic masses and upper 
abdominal lymphadenopathy.
3. Unchanged minimal/mild central intrahepatic there or ductal 
dilation.
4. 4.1 cm left presacral mass is unchanged.
5. Prominent bilateral gonadal veins with reflux of contrast 
into dilated bilateral hemipelvic varices, as on prior.  
Although nonspecific, in the setting of pelvic pain, findings 
can be seen with pelvic congestion syndrome.
6. Anterior abdominal injection granulomas.  Fatty atrophy of 
the pancreatic
body and tail.  Other incidental findings, as above.

CT ABD/PELVIS ___:
No evidence of pneumoperitoneum or other acute finding. 
Extensive metastatic involvement of the liver is unchanged with 
no new ascites 
or clear biliary dilatation. 

BARIUM SWALLOW ___
  
1.  No high-grade stenosis, stricture, extrinsic compression or 
mucosal 
abnormality in the esophagus. 
2.  Momentarily holdup of barium tablet at the thoracic inlet, 
without a 
high-grade stricture at this site or an obstructing mass lesion, 
with 
subsequent free passage into the stomach. 

DISCHARGE LABS:
==============

___ 10:56AM BLOOD WBC-10.0 RBC-3.14* Hgb-10.4* Hct-32.3* 
MCV-103* MCH-33.1* MCHC-32.2 RDW-18.9* RDWSD-71.8* Plt ___
___ 10:56AM BLOOD Neuts-75* Bands-0 Lymphs-10* Monos-12 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-7.50* 
AbsLymp-1.00* AbsMono-1.20* AbsEos-0.30 AbsBaso-0.00*
___ 05:28AM BLOOD Glucose-107* UreaN-6 Creat-1.0 Na-137 
K-4.5 Cl-101 HCO3-23 AnGap-13
___ 05:28AM BLOOD ALT-30 AST-34 LD(LDH)-298* AlkPhos-125* 
TotBili-0.3
___ 05:28AM BLOOD Albumin-4.2 Calcium-9.0 Phos-3.1 Mg-2.___ year old woman with metastatic neuroendocrine tumor of the 
rectum who was admitted from the ED with one day of progressive 
epigastric abdominal pain, found to have new leukocytosis.

#Epigastric abdominal pain:  
The patient presented with cramping and burning epigastric 
abdominal pain several days after receiving FOLFIRI (___), 
in the setting of a recent admission for the same reason. On her 
last admission, her pain was felt to be due to GERD vs. 
gastritis. She was discharged on BID high dose PPI, but her pain 
recurred despite this therapy. No signs of biliary or bowel 
obstruction, and admission CT abdomen/pelvis was unrevealing. GI 
was consulted, and they recommended conservative management, as 
endoscopy would not change management at this time. The patient 
was started on scheduled Zofran, resulting in improvement in her 
nausea, and her pain was managed with Tylenol, her home 
Oxycodone and MS ___, and Dilaudid for breakthrough pain. H. 
pylori stool antigen was detected and she was started on two 
week course of triple therapy with clarithromycin, amoxicillin, 
HD PPI. Barium swallow without stricture. 

#Dysphagia to solids and pills:
On admission, the patient also endorsed intermittent sensation 
of food and pills getting stuck in her throat. Improved with 
drinking fluids. No known prior endoscopy and no prior 
radiographic evaluation of esophagus. The patient underwent 
non-urgent barium swallow to assess for mechanical etiology, 
which showed no stricture. 

#Hypotension, thought to be ___ hypovolemia:
#Leukocytosis, thought to be ___ Neulasta:
The patient was intermittently hypotensive to ___ during 
admission, with improvement to ___ with bolusing. Suspected 
hypovolemia in the setting of dehydration given recent poor PO 
intake. The patient has been on Lovenox given h/o PE, but no e/o 
active bleeding. Despite leukocytosis, she did just receive 
Neulasta on ___. She has no localizing source of infection and
has been afebrile since arrival to the floor; therefore, low 
concern for sepsis.

# Metastatic Neuro-Endocrine Tumor: C2D1 FOLFIRI ___.
- ___ without outpatient team following discharge

# Hepatitis B:
# HIV: Continue home dolutregravir and Truvada.

# History of PE: Continue home lovenox.

CODE: Full (confirmed)  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Dolutegravir 50 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
5. LORazepam 0.5 mg PO DAILY:PRN anxiety 
6. Morphine SR (MS ___ 30 mg PO QHS 
7. Omeprazole 40 mg PO BID 
8. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
9. Polyethylene Glycol 17 g PO BID 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Senna 8.6 mg PO BID constipation 
12. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
13. Megestrol Acetate 400 mg PO DAILY 
14. Ondansetron ODT ___ mg PO Q8H:PRN nausea 
15. Bisacodyl 10 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin 1000 mg PO Q12H Duration: 14 Days 
RX *amoxicillin 500 mg 2 capsule(s) by mouth Twice daily Disp 
#*23 Capsule Refills:*0 
3.  Clarithromycin 500 mg PO Q12H Duration: 14 Days 
RX *clarithromycin 500 mg 1 tablet(s) by mouth Twice daily Disp 
#*23 Tablet Refills:*0 
4.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth Twice daily Disp #*30 Tablet Refills:*0 
5.  Morphine SR (MS ___ 15 mg PO QHS  
6.  Ondansetron 4 mg PO Q8H:PRN nausea  
7.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
8.  Polyethylene Glycol 17 g PO BID  
9.  Bisacodyl 10 mg PO DAILY:PRN constipation  
10.  Docusate Sodium 100 mg PO BID  
11.  Dolutegravir 50 mg PO DAILY  
12.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
13.  Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
14.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
15.  Megestrol Acetate 400 mg PO DAILY  
16.  Omeprazole 40 mg PO BID  
17.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
18.  Senna 8.6 mg PO BID constipation  
19.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Metastatic neuroendocrine rectal carcinoma
Secondary: H.pylori infection, HIV 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I ADMITTED TO THE HOSPITAL? 
You were admitted to the hospital because you were having 
abdominal pain that was difficult to control at home.

WHAT HAPPENED WHILE I WAS AT THE HOSPITAL?
You were seen by the GI doctors and had a study performed called 
a barium swallow to evaluate your abdominal pain to look for a 
cause for the pain which was normal. You had testing performed 
which showed you were positive for H. pylori which is a bacteria 
that can cause increased acid reflux and abdominal discomfort 
and you were started on treatment. You were seen by the 
palliative care doctors and your ___ medications were adjusted. 


WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
You should take your medications as described below.
You should follow up with all your appointments listed below.
Stay hydrated by drinking fluids. 
Take miralax twice a day and if no bowel movement within 24hrs, 
take ___ on that day until you have a good bowel movement. 

 
Followup Instructions:
___